US09126970B2
Step a): 9-(4-Chloro-6-phenyl-1,3,5-triazin-2-yl)-3,6-diphenyl-9H-carbazole
29.9 g (93.6 mmol) of 3,6-diphenyl-9H-carbazole are dissolved in 660 ml of THF under a protective-gas atmosphere, and 7.49 g of 60% NaH in mineral oil (187 mmol) are added. After 1 h at room temperature, a solution of 2,4-dichloro-6-phenyl-1,3,5-triazine (63.1 g, 279.3 mmol) in 300 ml of THF is added dropwise. The reaction mixture is stirred at room temperature for 12 h. After this time, the reaction mixture is poured onto ice and extracted three times with dichloromethane. The combined organic phases are dried over Na2SO4 and evaporated. The residue is extracted with hot toluene and recrystallised from dichloromethane/isopropanol. The yield is 28.4 g (56 mmol, 60%).

reactant | 3,6-diphenyl-9H-carbazole | 93.6 mmol, 29.9 g | C1(=CC=CC=C1)C=1C=CC=2NC3=CC=C(C=C3C2C1)C1=CC=CC=C1 | C24H17N
reactant | NaH | 7.49 g | [H-].[Na+]
reactant | 2,4-dichloro-6-phenyl-1,3,5-triazine | 279.3 mmol, 63.1 g | ClC1=NC(=NC(=N1)Cl)C1=CC=CC=C1 | C9H5Cl2N3
solvent | THF | 660 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 9-(4-Chloro-6-phenyl-1,3,5-triazin-2-yl)-3,6-diphenyl-9H-carbazole | ClC1=NC(=NC(=N1)C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C=C(C=CC12)C1=CC=CC=C1)C1=CC=CC=C1 | C33H21ClN4
